US05578627
A solution of 1.00 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole in 5 ml of methylene chloride is added to a solution of 0.31 g of N-(chlorocarbonyl) isocyanate in 10 ml of methylene chloride at -50° to -40° C. This solution is added to 10 ml of a methanol solution (8.0N) of ammonia at -20° C. over 20 minutes, and the temperature is elevated to 0° C., at which they are subjected to reaction for 30 minutes. Water is added to the reaction mixture, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure, to obtain 3-(3-ureidocarbonyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 1.00 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
reactant | N-(chlorocarbonyl) isocyanate | 0.31 g | C(=NC(=O)Cl)=O | C2ClNO2
reactant | methanol | 8.0N, 10 ml | CO | CH4O
reactant | ammonia | N | H3N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-(3-ureidocarbonyloxy-2-tert-butoxycarbonylaminopropoxy)-5-chloro-1,2-benzoisoxazole | N(C(=O)N)C(=O)OCC(COC1=NOC2=C1C=C(C=C2)Cl)NC(=O)OC(C)(C)C | C17H21ClN4O7
